US04044015
C. 1-benzylimidazo[1,5-a]pyridinium bromide
Imidazo[1,5-a]pyridine (3.9 g.) in 100 ml. of dry acetonitrile is treated with 6.8 g. of α-bromotoluene, and the resulting reaction mixture heated under reflux for 3 hrs. The solution is cooled and diluted with 250 ml. of diethyl ether. The resulting precipitate is filtered and recrystallized from isopropanol-diethyl ether, 7.92 g., m.p. 172°-176° C.

reactant | Imidazo[1,5-a]pyridine | 3.9 g | C=1N=CN2C1C=CC=C2 | C7H6N2
reactant | acetonitrile | C(C)#N | C2H3N
reactant | α-bromotoluene | BrCC1=CC=CC=C1 | C7H7Br
solvent | diethyl ether | C(C)OCC | C4H10O
product | 1-benzylimidazo[1,5-a]pyridinium bromide | [Br-].C(C1=CC=CC=C1)C=1[NH+]=CN2C1C=CC=C2 | InChI=1S/C14H12N2.BrH/c1-2-6-12(7-3-1)10-13-14-8-4-5-9-16(14)11-15-13;/h1-9,11H,10H2;1H
